US07960369B2
methyl 3-{4-[(4-{[hexyl(4-phenyl-1,3-thiazol-2-yl)amino]methyl}benzyl)oxy]phenyl}propanoate
To a solution of N-hexyl-4-phenyl-1,3-thiazol-2-amine (390 mg) in N,N-dimethylformamide (1.0 mL) was added sodium hydride (60%, oil, 50 mg) at room temperature and the mixture was stirred at room temperature for 30 min. Methyl 3-(4-{[4-(chloromethyl)benzyl]oxy}phenyl)propanoate (318 mg) was added to the reaction mixture and the mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into 1N aqueous hydrochloric acid, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was concentrated, and the residue was purified by silica gel column chromatography with ethyl acetate-hexane (gradient of 1:19 to 1:1 by volume ratio) to give the title compound (260 mg, yield 48%) as a pale-yellow oil.

reactant | N-hexyl-4-phenyl-1,3-thiazol-2-amine | 390 mg | C(CCCCC)NC=1SC=C(N1)C1=CC=CC=C1 | C15H20N2S
reactant | sodium hydride | 50 mg | [H-].[Na+]
reactant | Methyl 3-(4-{[4-(chloromethyl)benzyl]oxy}phenyl)propanoate | 318 mg | ClCC1=CC=C(COC2=CC=C(C=C2)CCC(=O)OC)C=C1 | C18H19ClO3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | methyl 3-{4-[(4-{[hexyl(4-phenyl-1,3-thiazol-2-yl)amino]methyl}benzyl)oxy]phenyl}propanoate | 260 mg, yield 48% | C(CCCCC)N(C=1SC=C(N1)C1=CC=CC=C1)CC1=CC=C(COC2=CC=C(C=C2)CCC(=O)OC)C=C1 | C33H38N2O3S
